US05464811
Ethyl alcohol (30 ml) and a 2N aqueous solution of sodium hydroxide (50 ml) were added to methyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate obtained above, and the mixture was stirred For 4 hours while heating on an oil bath at 110° C. After completion of the reaction, the solvent was distilled off, and the residue was extracted with ethyl acetate (100 ml×3 times). The organic layer was washed with a saturated aqueous solution of sodium chloride, dried, and the solvent was distilled off under reduced pressure to obtain oily 2-fluoro-4-chloro-5-cyclopentyloxyaniline (4.38 g, 19.0 mmol, 95.0% yield). The spectral data and the like are as shown in Reference Example 1.

reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | methyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(OC)=O | C13H15ClFNO3
solvent | Ethyl alcohol | 30 ml | C(C)O | C2H6O
product | 2-fluoro-4-chloro-5-cyclopentyloxyaniline | 19.0 mmol, 4.38 g, 95.0% yield | FC1=C(N)C=C(C(=C1)Cl)OC1CCCC1 | C11H13ClFNO
